US05770598
3,4-Dimethyl-2-(3-methyl-1,2,4-oxadiazol-5-yl)pyrrolo[2,3-b]carbazole
3,4-Dimethylpyrrolo[2,3-b]carbazole-2-carboxylic acid (0.5 g, 1.8 mmol) and carbonyl diimidazole (0.34 g, 2 mmol) were dissolved in freshly distilled tetrahydrofuran (20 ml) in an oven-dried flask under a nitrogen atmosphere. The resulting orange solution was stirred at room temperature for two hours, by which time it was an orange suspension, and complete conversion of the acid to the imidazolide intermediate was verified by TLC. Meanwhile, in a second oven-dried flask, methylamidoxime (0.27 g, 3.6 mmol) was dissolved in THF (10 ml). To this was added crushed 3 Å sieves and the mixture was stirred at room temp for 45 mins. Sodium hydride (60% dispersion in mineral oil, 0.243 g, 6.12 mmol) was added and the mixture stirred for a further 2 hours. The contents of the two flasks were combined and stirred at room temp for 18 hours, by which time TLC showed complete consumption of the imidazolide intermediate. The solvent was removed in vacuo to give a yellow solid. Chromatography on silica (eluting with ethyl acetate/hexane 1:2) gave the pure yellow product (0.044 g, 8%) with m.p. 248°-249° C. (Found: C, 71.97; H, 5.07; N, 17.21. C19H16N4O.0.05EtOAc requires: C, 71.89; H. 5.15; N, 17.47%); δH [2H6 ]-DMSO 11.54 (1H s, 1-NH), 10.92 (1H, s, 9-NH), 8.17 (1H, d, J 7.5, 5-H), 7.41-7.28 (2H, m, 7-H, 8-H), 7.19 (1H, s, 10-H), 7.16-7.06 (1H, m, 6-H), 3.18 and 3.00 (2×3H, 2×s, 3-CH3 and 4-CH3), 2.43 (3H, s, 3'-CH3); m/z (%) 316 (100, M+), 260 (19), 232 (31).

reactant | 3,4-Dimethylpyrrolo[2,3-b]carbazole-2-carboxylic acid | 1.8 mmol, 0.5 g | CC=1C(=NC2=CC3=NC4=CC=CC=C4C3=C(C21)C)C(=O)O | C17H12N2O2
reactant | carbonyl diimidazole | 2 mmol, 0.34 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | imidazolide | [N-]1C=NC=C1
reactant | Sodium hydride | 6.12 mmol, 0.243 g | [H-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3,4-Dimethyl-2-(3-methyl-1,2,4-oxadiazol-5-yl)pyrrolo[2,3-b]carbazole | 0.044 g, 8% | CC=1C(=NC2=CC3=NC4=CC=CC=C4C3=C(C21)C)C2=NC(=NO2)C | C19H14N4O
